US05312820
Step A: 1,2,3,4-Tetrahydroquinoline-1-carbonyl Chloride
By the procedure of Example 7, Step A, 1,2,3,4-tetrahydroquinoline was reacted with phosgene to give a 90% yield of the title compound as a dark orange oil, homogeneous by TLC (3:1 hexane-EtOAc) but Rf identical to that of starting material; IR spectrum νCO 1740 cm-1 ; FAB-MS m/e 196 (M+1)+.

reactant | 1,2,3,4-tetrahydroquinoline | N1CCCC2=CC=CC=C12 | C9H11N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 1,2,3,4-Tetrahydroquinoline-1-carbonyl Chloride | 90% yield | N1(CCCC2=CC=CC=C12)C(=O)Cl | C10H10ClNO
